US06329550B1
3.1 Synthesis of N,N′-diphenethyl-2-(t-butoxycarbonylamino)malonamide
Combine a mixture of t-butoxycarbonylaminomalonic acid and sodium chloride from Preparation 1.2 (5.0 g, 13.7 mmol), phenethylamine (4.32 mL, 34.3 mmol), and tetrahydrofuran (25 mL). Cool in an ice bath. Remove the ice bath. Add N-methylmorpholine (3.8 mL, 34.3 mmol), 1-ethyl-3-(3-(dimethylamino)propyl)carbodiimide hydrochloric acid salt (6.58 g, 34.3 mmol), and 1-hydroxybenztriazole hydrate (4.63 g, 34.3 mmol). Allow to warm to ambient temperature. After 18 hours, dilute the reaction mixture with ethyl acetate, extract with an aqueous 5% sulfuric acid solution, a saturated sodium bicarbonate solution, and then brine. Dry the organic layers over Na2SO4, filter, and evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting with 2/1 ethyl acetate/hexane to give the title compound (84%).

reactant | t-butoxycarbonylaminomalonic acid | C(C)(C)(C)OC(=O)NC(C(=O)O)C(=O)O | C8H13NO6
reactant | sodium chloride | [Cl-].[Na+]
reactant | phenethylamine | 34.3 mmol, 4.32 mL | C(CC1=CC=CC=C1)N | C8H11N
reactant | N-methylmorpholine | 34.3 mmol, 3.8 mL | CN1CCOCC1 | C5H11NO
reactant | 1-ethyl-3-(3-(dimethylamino)propyl)carbodiimide hydrochloric acid salt | 34.3 mmol, 6.58 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenztriazole hydrate | 34.3 mmol, 4.63 g | O.ON1N=NC2=C1C=CC=C2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | N,N′-diphenethyl-2-(t-butoxycarbonylamino)malonamide | 84% | C(CC1=CC=CC=C1)NC(C(C(=O)NCCC1=CC=CC=C1)NC(=O)OC(C)(C)C)=O | C24H31N3O4
